US05158951
Preparation of N-cyclopropyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 16.32 g (0.08 mol) of 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 12.4 ml (0.088 mol) of triethylamine in 480 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 6.5 ml (0.08 mol) of methyl chloroformate dissolved in 40 ml of chloroform is dropped to the above mixture at a temperature between -10° C. and -17° C. during 25 minutes. After stirring for 5 minutes, 5.025 g (0.088 mol) of cyclopropylamine in 80 ml of chloroform are dropped to the above solution at the same temperature during 40 minutes. The reaction mixture is stirred for 1 hour below -10° C. and then allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 150 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 150 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 14.5 g (74.5%) of the named compound as light yellow crystals after recrystallization from ethanol, m.p.: 174°-176° C.

reactant | 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.08 mol, 16.32 g | CC1=CC=CC=2N1C(C(=CN2)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 0.088 mol, 12.4 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.08 mol, 6.5 ml | ClC(=O)OC | C2H3ClO2
reactant | cyclopropylamine | 0.088 mol, 5.025 g | C1(CC1)N | C3H7N
solvent | chloroform | 480 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-cyclopropyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 14.5 g, 74.5% | C1(CC1)NC(=O)C1=CN=C2N(C1=O)C(=CC=C2)C | C13H13N3O2
